Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine Containing Agents Classifier
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
EGD with biopsies
Percutaneous cholecystostomy tube, internal-external drain 
placement

 
History of Present Illness:
___ yo w/gastric Ca, p/w increased fatigue for ___ weeks. + 
Anorexia with associated 8lb weight loss over 2 months. No 
fevers, chills. Also with abdominal pain for ___ weeks, diffuse, 
intermittent, not worse with eating. No nausea or emesis. orange 
urine for the ___ days. He is on 2 L of oxygen for sleep, and he 
has been having to use his oxygen occasionally during the day 
due to his increased fatigue. 

He states that he went to his primary care doctor last week, and 
was told that "one of your medications may be causing some 
problems with your liver" he was told to stop taking his 
metformin.

ROS: worsening of chronic back pain, otherwise negative
 
Past Medical History:
Gastric AdenoCA IIIA s/p hemigastrectomy ___, Ajuvant ___ 
and XRT ___. Subsequent imaging without recurrent or 
metastatic disease.
DM2, probably controlled, no known comps
GERD
HTN
COPD on home oxygen at 2L NC overnight
HLD
Chronic hip and lower back pain
 
Social History:
___
Family History:
Mother - no known malignancies. Father - no known malignancies. 
 
Physical Exam:
VS: 97.9  115/79  80  18  94%ra
Gen: nad, lying in bed
Heent: +scleral icterus, mmm
Chest: ctab
CV: rrr no m/r/g
Abd: nabs, soft, nt/nd
Ext: no e/c/c
Neuro: alert, follows commands
 
Pertinent Results:
___ 05:11PM   ALT(SGPT)-136* AST(SGOT)-64* CK(CPK)-24* ALK 
PHOS-318* TOT BILI-7.1* DIR BILI-5.8* INDIR BIL-1.3
___ 05:11PM   LIPASE-28
___ 05:11PM   WBC-15.7* RBC-4.58* HGB-13.6* HCT-41.4 MCV-90 
MCH-29.7 MCHC-32.8 RDW-13.7
___ 05:11PM   NEUTS-81.2* LYMPHS-10.4* MONOS-6.9 EOS-1.2 
BASOS-0.3
___ 05:11PM   ___ PTT-29.6 ___
___ 05:11PM   GLUCOSE-117* UREA N-22* CREAT-0.8 SODIUM-132* 
POTASSIUM-3.9 CHLORIDE-90* TOTAL CO2-33* ANION GAP-13

___ 05:11PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-LG UROBILNGN-2* PH-6.5 LEUK-NEG

RUQ US: 
IMPRESSION: 
1.  New moderate intra and extrahepatic bile duct dilatation, 
for which MRCP is recommended for further assessment of the 
source of obstruction. 
2.  No evidence of portal vein thrombosis.   

CT TORSO:
IMPRESSION: 
1. There is new gastric wall thickening and soft tissue 
infiltration involving the entire lesser curvature of the 
stomach extending to involve the greater curvature as well.  
  
2. There is new ascites within the abdomen and a small new left 
pleural 
effusion.  
  
3. Multiple enlarging lymph nodes are seen, in the left 
supraclavicular, right paracardiac, right paraesophageal, right 
retrocrural paraaortic and celiac regions suspicious for 
metastatic disease. 
  
4. There is interval increase in the degree of intra- and 
extra-hepatic 
biliary ductal dilatation as well as dilatation of the 
pancreatic duct with side branch ectasia. While no obstructing 
mass is seen at the anastomosis, this is a concern. Stricturing 
at the anastomosis is also a possibility.  
  
5. There is also atrophy of the left renal upper pole compatible 
with impaired vascularity to this region.  
  
6. There is also a bulky enlarging left adrenal gland, 
metastatic involvement cannot be excluded.  

Gastric Bx:
DIAGNOSIS: 
A.  Gastroesophageal junction mucosal biopsy:
Detached fragment of mucinous adenocarcinoma.
Gastric type mucosa with intestinal metaplasia and hyperplastic 
features.

B.  Anastomosis mucosal biopsy:
Mucinous adenocarcinoma, focally underlying gastric antral 
mucosa.
Chronic inactive gastritis with intestinal metaplasia.

___ 10:45 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROBACTER AEROGENES.    FINAL SENSITIVITIES. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER AEROGENES
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___. ___ @ 11:16AM 
ON ___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ ___ @ 11:16AM 
ON ___. 

 
Brief Hospital Course:
___ yo w/gastric cancer presents with fatigue, dark urine. Found 
to have leukocytosis, biliary obstruction consistent with 
cholangitis.

Bile Obstruction/Septicemia from Acute Cholangitis: Found to 
have obstructive jaundice and biliary dilatation on US.  Patient 
was started on Zosyn and hospitalized.  ERCP was consulted and 
ERCP was attempted but aborted given findings of recurrent 
gastric CA (see below).  Thus, he was taken to ___ for PTC and 
external-internal drain placement on ___.  During his course 
initial blood cultures grew Enterobacter.  He was on Zosyn then 
transitioned to Ceftriaxone until clearance of cultures.  He was 
ultimately changed to Cipro/Flagyl per sensitivities.  With 
external drain, his bili improved as did his symptoms, even 
after capping.  He was discharged to complete a 2 week course of 
Cipro/Flagyl after PTC, and discharged with a capped drain.  The 
drain can be internalized to a metal stent pending Oncologic 
evaluation and decision of further treatment of his gastric 
cancer.
- ___ to call pt with follow up

Gastric Adeno, suspicious for metastatic disease: ERCP 
demonstrated probable recurrence of his gastric CA.  Biopsy was 
performed which confirmed a mucinous adenocarcinoma.  He 
underwent repeat CT torso showing thickened stomach wall, with 
numerous pathologic lymph nodes and an adrenal nodule, all 
suspicious for cancer spread.  This was all discussed with the 
patient and his wife.  General surgery team that was following 
recommended referral to a surgical oncologist to determine 
surgical options.  Medical oncology follow up was arranged to 
facilitate this, as well as to discuss medical oncologic 
management

DM2,controlled: Well controlled in house without medication

COPD: continued home O2, advair, spiriva

GERD: no longer on medication

HTN: continued atenolol, but held lisinopril and HCTZ as BP on 
the lowish side of 100-110 systolic and no clear need at present 
for additional antihypertensives.

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Metoclopramide 10 mg PO QIDACHS 
2. Atenolol 50 mg PO DAILY Start: In am 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Hydrochlorothiazide 25 mg PO DAILY Start: In am 
5. Lisinopril 20 mg PO DAILY 
6. Oxycodone SR (OxyconTIN) 20 mg PO Q12H 
7. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
8. Tiotropium Bromide 1 CAP IH DAILY Start: In am 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Oxycodone SR (OxyconTIN) 20 mg PO Q12H 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Metoclopramide 10 mg PO QIDACHS 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
7. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
8. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*24 Tablet Refills:*0
9. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*36 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bile obstruction
Acute cholangitis/septicemia
Gastric cancer recurrence
Type 2 diabetes mellitus
COPD
GERD
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with new jaundice and mild abdominal pain.  
You were found to have a bile obstruction.  You went for 
ERCP/EGD which showed a likely recurrence of your cancer.  This 
was confirmed on biopsy.  You then went for successful opening 
of your bile duct with an external tube, now capped.  During 
this, you have been treated for an infection, for which you will 
need to complete your antibiotic course.

Please take all medications as prescribed.  Please leave your 
drain capped.  However, should you develope new pain, 
nausea/vomiting, fever, please open your drain to baggage and 
call your doctor.
 
Followup Instructions:
___